Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Cephalosporins / Penicillins
 
Attending: ___.
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with Hx of recent facial trauma, IPH
and tSAH after an altercation at prison.  He was evaluated for
this on ___ and ___ in the ___ ED where ___ showed 
expected
progression of traumatic hemorrhage and facial fractures were
evaluated by Plastics prior to d/c back to prison.  At the
prison, he was felt to be more somnolent and was ultimately
transferred to ___ for monitoring.  At ___, the 
patient
remained mildly confused; repeat ___ on ___ was stable. 
Confusion continued and the patient developed difficulty 
walking.
The patient had a witnessed mechanical fall without headstrike 
on
___ and several other previously unreported falls in the days
prior to ___ the dates of these falls are unclear. He had a 
reapeat NCHCT ___. Neurology was consuled who felt there was 
progression of IPH and
recommended transfer to ___. 
 
Past Medical History:
EtOH abuse in past- sober ___ years  
Hypercholesterolemia  
COPD  
Bipolar vs. schizoaffective d/o-depression and two major 
overdoses,  
with previous hospitalizations at the ___,  
___, and the ___  
H/O seizure ___ seizures in life, last one was ___ years 
ago.  

 
Social History:
___
Family History:
Non-contributory.  
 
Physical Exam:
Gen: WD/WN, comfortable, NAD.
HEENT: significant left facial ecchymosis, L  periorbital edema
L, left eyelid laceration
Neck: supple
Extrem: warm and well perfused

Neuro:
Mental Status: Awake, alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to very loud voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Upon Discharge:
Exam:

Opens eyes: [ ]spontaneous [x]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right  ___            Left unable to assess

EOM: [x]Full on right, UTA on left  [ ]Restricted

Face Symmetric: [ ]Yes [x]No (secondary to facial trauma and
extensive bruising)
Tongue Midline: [x]Yes [ ]No

Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
BicepTricepGrip
Right5------------------
Left5------------------

IPQuadHamATEHLGast
 
Pertinent Results:
Please see OMR for all pertinent results

CT HEAD W/O CONTRAST ___
IMPRESSION:
Stable left frontal intraparenchymal hemorrhage and stable
punctate focus of hemorrhage in the brainstem on the right as
detailed above.  There is no new acute intracranial hemorrhage
appreciated. There is minimal localized mass effect, but no
significant midline shift is appreciated. Overall, appearance is
grossly unchanged from the prior examination of ___.
 
Brief Hospital Course:
#TBI 
Mr. ___ is a ___ male admitted to ___ neurosurgery 
for concern of progression of his prior TBI. Repeat CT on ___ 
demonstrated stable appearance of R frontal IPH compared to 
prior. The 4mm hyperdensity at pontomedullary junction was also 
grossly stable. He was continued on his keppra 1g bid for 
seizure prophylaxis. No surgical intervention was indicated.  He 
was evaluated by physical therapy, who recommended rehab at 
discharge. 

 
Medications on Admission:
fludrocort, gemfibrozil, Norvasc, ranitidine, insulin, 
fluoxetine, asa
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  NPH 26 Units Breakfast
NPH 20 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  amLODIPine 5 mg PO DAILY  
5.  Fludrocortisone Acetate 0.1 mg PO DAILY  
6.  FLUoxetine 40 mg PO DAILY  
7.  Gemfibrozil 600 mg PO BID  
8.  LevETIRAcetam 1000 mg PO BID 
___ DC if no seizure activity  
9.  Levothyroxine Sodium 112 mcg PO DAILY  
10.  Ranitidine 75 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
TBI; L frontal IPH 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions
Brain Hemorrhage without Surgery

 
Activity

 We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

 You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

 No driving while taking any narcotic or sedating medication. 

 If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

 No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

 

Medications

 Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

 You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. We recommend that Keppra can be stopped after 7 days if no 
seizure activity occurs.

 You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

 You may have difficulty paying attention, concentrating, and 
remembering new information.

 Emotional and/or behavioral difficulties are common. 

 Feeling more tired, restlessness, irritability, and mood 
swings are also common.

 Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

 

Headaches:

 Headache is one of the most common symptom after a brain 
bleed. 

 Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

 Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

 There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


 

When to Call Your Doctor at ___ for:

 Severe pain, swelling, redness or drainage from the incision 
site. 

 Fever greater than 101.5 degrees Fahrenheit

 Nausea and/or vomiting

 Extreme sleepiness and not being able to stay awake

 Severe headaches not relieved by pain relievers

 Seizures

 Any new problems with your vision or ability to speak

 Weakness or changes in sensation in your face, arms, or leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

 Sudden numbness or weakness in the face, arm, or leg

 Sudden confusion or trouble speaking or understanding

 Sudden trouble walking, dizziness, or loss of balance or 
coordination

 Sudden severe headaches with no known reason

 

 

 
Followup Instructions:
___